US04782061
1-benzo-[b]furan-7-yl-4[3-(4-fluorobenzoyl)propyl]piperzine HCl
7.5 Mmol (1.79 g) of 1-benzo[b]furan-7-yl-piperazine HCl, together with 9.1 mmol (1.82 g) of 1-chloro-3-(4-fluorobenzoyl)-propane, 20 mmol (2.80 g) of potassium carbonate and a catalytic quantity (approximately 100 mg) of sodium iodide as a suspension in 50 ml of methyl ethyl ketone, was heated with thorough stirring so that the solvent refluxes. After stirring for 16 hours, 9.1 mmol of 1-chloro-3-(4-fluorobenzoyl)propane and 20 mmol of potassium carbonate were added again. After stirring for another 16 hours at reflux temperature, cooling, filtering and evaporating to dryness in vacuo were carried out. The residue was chromatographed on silica gel with ethyl acetate as an eluent. After evaporating the fractions which comprised the desired product, material was obtained which was converted into the title compound via treatment with 1 equivalent of a HCl solution in ethyl acetate.

reactant | 1-benzo[b]furan-7-yl-piperazine HCl | 7.5 Mmol, 1.79 g | Cl.O1C2=C(C=C1)C=CC=C2N2CCNCC2
reactant | 1-chloro-3-(4-fluorobenzoyl)-propane | 9.1 mmol, 1.82 g | ClCCCC(C1=CC=C(C=C1)F)=O | C10H10ClFO
reactant | potassium carbonate | 20 mmol, 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | approximately 100 mg | [I-].[Na+]
reactant | 1-chloro-3-(4-fluorobenzoyl)propane | 9.1 mmol | ClCCCC(C1=CC=C(C=C1)F)=O | C10H10ClFO
reactant | potassium carbonate | 20 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 equivalent | Cl | ClH
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzo-[b]furan-7-yl-4[3-(4-fluorobenzoyl)propyl]piperzine HCl | Cl.O1C2=C(C=C1)C=CC=C2N2CCN(CC2)CCCC(C2=CC=C(C=C2)F)=O | InChI=1S/C22H23FN2O2.ClH/c23-19-8-6-17(7-9-19)21(26)5-2-11-24-12-14-25(15-13-24)20-4-1-3-18-10-16-27-22(18)20;/h1,3-4,6-10,16H,2,5,11-15H2;1H
